*********************************************************
*** NGSPICE file created by KLayout-PEX 0.3.12
*** -----------------------------------------------------
***     Extraction Engine: KPEX/2.5D
***     Technology: ihp_sg13g2
***     Date: 2026-08-18 20:32:49
*********************************************************

.SUBCKT pam4drv_pam4_lay sub msbn lsbp vcmb lsbn msbp tmsb0 tmsb1 tlsb0 vcasc outp outn vcc
XQ_1 \$49 msbp \$10 sub npn13G2 Nx=3
XQ_2 \$50 msbn \$11 sub npn13G2 Nx=3
XQ_3 \$51 msbp \$12 sub npn13G2 Nx=3
XQ_4 \$52 msbn \$13 sub npn13G2 Nx=3
XQ_5 \$53 lsbp \$14 sub npn13G2 Nx=3
XQ_6 \$54 lsbn \$15 sub npn13G2 Nx=3
XQ_7 outp vcasc \$49 sub npn13G2 Nx=3
XQ_8 outn vcasc \$50 sub npn13G2 Nx=3
XQ_9 outp vcasc \$51 sub npn13G2 Nx=3
XQ_10 outn vcasc \$52 sub npn13G2 Nx=3
XQ_11 outp vcasc \$53 sub npn13G2 Nx=3
XQ_12 outn vcasc \$54 sub npn13G2 Nx=3
XR_13 vcmb lsbp sub rsil w=0.58u l=2.85u m=1
XR_14 vcmb lsbn sub rsil w=0.58u l=2.85u m=1
XR_15 vcmb msbp sub rsil w=0.58u l=2.85u m=1
XR_16 vcmb msbn sub rsil w=0.58u l=2.85u m=1
XR_17 tmsb0 \$10 sub rsil w=4.61u l=0.85u m=1
XR_18 tmsb0 \$11 sub rsil w=4.61u l=0.85u m=1
XR_19 tmsb1 \$12 sub rsil w=4.61u l=0.85u m=1
XR_20 tmsb1 \$13 sub rsil w=4.61u l=0.85u m=1
XR_21 tlsb0 \$14 sub rsil w=4.61u l=0.85u m=1
XR_22 tlsb0 \$15 sub rsil w=4.61u l=0.85u m=1
XR_23 outp vcc sub rsil w=1.01u l=5.43u m=1
XR_24 outn vcc sub rsil w=1.01u l=5.43u m=1
Cext_1 \$10 \$11 1.08982f
Cext_2 \$10 \$49 1.34226f
Cext_3 \$10 \$50 26.4759a
Cext_4 \$10 msbn 3.38161a
Cext_5 \$10 msbp 762.467a
Cext_6 \$10 sub 11.7891a
Cext_7 \$10 tmsb0 333.35a
Cext_8 \$10 vcasc 15.3808a
Cext_9 \$10 sub 2.92711f
Cext_10 \$11 \$49 5.58889a
Cext_11 \$11 \$50 1.32982f
Cext_12 \$11 msbn 752.063a
Cext_13 \$11 msbp 14.1556a
Cext_14 \$11 sub 4.35613a
Cext_15 \$11 tmsb0 329.653a
Cext_16 \$11 vcasc 9.38567a
Cext_17 \$11 sub 2.85245f
Cext_18 \$12 \$13 1.08982f
Cext_19 \$12 \$51 1.34226f
Cext_20 \$12 \$52 26.4759a
Cext_21 \$12 msbn 3.38161a
Cext_22 \$12 msbp 763.151a
Cext_23 \$12 sub 4.35613a
Cext_24 \$12 tmsb1 333.35a
Cext_25 \$12 vcasc 15.3808a
Cext_26 \$12 sub 2.93054f
Cext_27 \$13 \$51 5.58889a
Cext_28 \$13 \$52 1.32982f
Cext_29 \$13 msbn 752.063a
Cext_30 \$13 msbp 2.3017a
Cext_31 \$13 sub 4.35613a
Cext_32 \$13 tmsb1 329.653a
Cext_33 \$13 vcasc 9.38567a
Cext_34 \$13 sub 2.85245f
Cext_35 \$14 \$15 1.08982f
Cext_36 \$14 \$53 1.34226f
Cext_37 \$14 \$54 26.4759a
Cext_38 \$14 lsbn 3.38161a
Cext_39 \$14 lsbp 748.744a
Cext_40 \$14 sub 4.35613a
Cext_41 \$14 tlsb0 333.35a
Cext_42 \$14 vcasc 15.3808a
Cext_43 \$14 sub 2.93603f
Cext_44 \$15 \$53 5.58889a
Cext_45 \$15 \$54 1.32982f
Cext_46 \$15 lsbn 752.063a
Cext_47 \$15 lsbp 2.3017a
Cext_48 \$15 sub 8.63537a
Cext_49 \$15 tlsb0 329.653a
Cext_50 \$15 vcasc 9.38567a
Cext_51 \$15 sub 2.8516f
Cext_52 \$49 msbp 50.9066a
Cext_53 \$49 outp 716.546a
Cext_54 \$49 sub 21.173a
Cext_55 \$49 vcasc 750.954a
Cext_56 \$49 sub 2.21662f
Cext_57 \$50 msbn 50.9066a
Cext_58 \$50 outn 661.201a
Cext_59 \$50 outp 53.5729a
Cext_60 \$50 sub 23.9451a
Cext_61 \$50 vcasc 761.056a
Cext_62 \$50 sub 2.21189f
Cext_63 \$51 msbp 50.9066a
Cext_64 \$51 outp 729.032a
Cext_65 \$51 sub 23.9451a
Cext_66 \$51 vcasc 761.056a
Cext_67 \$51 sub 2.21184f
Cext_68 \$52 msbn 50.9066a
Cext_69 \$52 outn 661.201a
Cext_70 \$52 outp 53.5729a
Cext_71 \$52 sub 23.9451a
Cext_72 \$52 vcasc 761.056a
Cext_73 \$52 sub 2.21189f
Cext_74 \$53 lsbp 50.9066a
Cext_75 \$53 outp 716.546a
Cext_76 \$53 sub 23.9451a
Cext_77 \$53 vcasc 761.056a
Cext_78 \$53 sub 2.21184f
Cext_79 \$54 lsbn 50.9066a
Cext_80 \$54 outn 661.201a
Cext_81 \$54 sub 15.4225a
Cext_82 \$54 vcasc 744.367a
Cext_83 \$54 sub 2.22501f
Cext_84 lsbn lsbp 437.336a
Cext_85 lsbn msbn 31.0802a
Cext_86 lsbn msbp 66.5919a
Cext_87 lsbn sub 23.4721a
Cext_88 lsbn tlsb0 79.2093a
Cext_89 lsbn vcmb 124.853a
Cext_90 lsbp msbn 312.996a
Cext_91 lsbp msbp 56.2081a
Cext_92 lsbp tlsb0 79.2093a
Cext_93 lsbp vcmb 8.98507a
Cext_94 msbn msbp 630.903a
Cext_95 msbn tmsb0 79.3692a
Cext_96 msbn tmsb1 118.763a
Cext_97 msbn vcmb 8.38326a
Cext_98 msbp sub 20.8804a
Cext_99 msbp tmsb0 244.921a
Cext_100 msbp tmsb1 198.829a
Cext_101 msbp vcmb 8.38326a
Cext_102 outn outp 1.0197f
Cext_103 outn sub 131.958a
Cext_104 outn vcasc 152.2a
Cext_105 outn vcc 2.3395f
Cext_106 outp sub 171.31a
Cext_107 outp vcasc 220.109a
Cext_108 outp vcc 50.9951a
Cext_109 sub tlsb0 8.61462a
Cext_110 sub tmsb0 10.0902a
Cext_111 sub vcasc 372.638a
Cext_112 sub vcc 768.072a
Cext_113 sub vcmb 888.178a
Cext_114 sub lsbn 5.09128f
Cext_115 sub lsbp 3.8444f
Cext_116 sub msbn 5.80665f
Cext_117 sub msbp 6.28378f
Cext_118 sub outn 12.3754f
Cext_119 sub outp 11.4029f
Cext_120 sub sub 44.3207f
Cext_121 sub tlsb0 3.59961f
Cext_122 sub tmsb0 3.59766f
Cext_123 sub tmsb1 3.5865f
Cext_124 sub vcasc 7.07881f
Cext_125 sub vcc 8.15239f
Cext_126 sub vcmb 9.59171f
XCdeg_r0 \$10 \$11 cap_cmim w=3.45u l=3.45u
XCdeg_r1 \$12 \$13 cap_cmim w=3.45u l=3.45u
XCdeg_r2 \$14 \$15 cap_cmim w=3.45u l=3.45u
.ENDS pam4drv_pam4_lay
