* TB[pam4] bias point (ramp and hold)
Vcc vcc 0 PWL(0 0 8n 4)
Vcasc vcasc 0 PWL(0 0 8n 3.25)
Vcmb vcmb 0 PWL(0 0 8n 1.9)
Vblsb blsb 0 PWL(0 0 8n 16)
Vbmsb bmsb 0 PWL(0 0 8n 16)
XDUT lsbp lsbn msbp msbn outp outn vcc vcasc vcmb blsb bmsb pam4drv_pam4
Rlp outp vcc 50
Rln outn vcc 50
Vslsbp slsbp 0 PWL(0 0 8n 1.9)
Vslsbn slsbn 0 PWL(0 0 8n 1.9)
Rslsbp slsbp lsbp 50
Rslsbn slsbn lsbn 50
Vsmsbp smsbp 0 PWL(0 0 8n 1.9)
Vsmsbn smsbn 0 PWL(0 0 8n 1.9)
Rsmsbp smsbp msbp 50
Rsmsbn smsbn msbn 50
* post-layout adapter: pam4drv_pam4_lay -> pam4drv_pam4 schematic ports
.subckt pam4drv_pam4 lsbp lsbn msbp msbn outp outn vcc vcasc vcmb blsb bmsb
Xlay sub lsbp vcmb lsbn msbp msbn tmsb0 tlsb0 tmsb1 vcasc outp outn vcc pam4drv_pam4_lay
Gtlsb0 tlsb0 0 blsb 0 1m
Gtmsb0 tmsb0 0 bmsb 0 1m
Gtmsb1 tmsb1 0 bmsb 0 1m
Vsub sub 0 DC 0
.ends pam4drv_pam4
.include "../../../report/layout/b/dut_pam4_post.spice"
.lib "cornerRES.lib" res_typ
.lib "cornerCAP.lib" cap_typ

.lib "cornerHBT.lib" hbt_typ
.options gmin=1e-12 reltol=1e-3
.control
tran 0.0233333n 14n uic
wrdata bias.csv v(outp) i(Vcc)
.endc
.GLOBAL GND
.end
